US07074800B1
4-(4-Bromo-2-fluorophenoxy)-6-methoxy-7-(3-(N-methyl N-methylsulphonylamino)propoxy)quinazoline (4.70 g, 9.1 mmol) was dissolved in 2N aqueous hydrochloric acid solution (85 ml) and heated at reflux for 1 hour. After cooling, the solution was carefully poured into saturated aqueous sodium hydrogen carbonate solution (to pH8) and stirred vigorously for 30 minutes. The resulting precipitate was filtered and dried. The filter cake was then taken up as a suspension in acetone, filtered, washed with diethyl ether and dried to give 6-methoxy-7-(3-(N-methyl-N-methylsulphonylamino)propoxy)quinazolin-4-one (3.23 g, 88%).

reactant | 4-(4-Bromo-2-fluorophenoxy)-6-methoxy-7-(3-(N-methyl N-methylsulphonylamino)propoxy)quinazoline | 9.1 mmol, 4.70 g | BrC1=CC(=C(OC2=NC=NC3=CC(=C(C=C23)OC)OCCCN(S(=O)(=O)C)C)C=C1)F | C20H21BrFN3O5S
reactant | sodium hydrogen carbonate | pH8 | C(O)([O-])=O.[Na+]
solvent | hydrochloric acid | 2N, 85 ml | Cl | ClH
product | 6-methoxy-7-(3-(N-methyl-N-methylsulphonylamino)propoxy)quinazolin-4-one | 3.23 g, 88% | COC=1C=C2C(NC=NC2=CC1OCCCN(S(=O)(=O)C)C)=O | C14H19N3O5S
